datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:10]C([H])C([H])/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C([H])C([H])[O:10]1 10=20;20,21=21"
"C[O:10][H].[H][NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21][H])([O]C)[O]CC 10=20;20,21=21"
"[K][O:21]C.[C:20](=[O:10])(OC1=CC=CC=C1)OCCCCCC>>[K][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OCCCCCC)C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O:10]C(C)C([H])N1C>>[O-:10]C(C)C([H])N([C:20](OCC)=[O:21])C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"[OH:10]C(CCC)/C(C)=C([C:20]([H])=[OH+:21])/C>>[OH:21][C:20]1([H])[OH+:10]C(CCC)C(C)=C1C 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C([H])=C([H])C([H])[OH+:10]1>>[OH:10]C([H])/C([H])=C([H])\C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(O)C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C(O)C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O-:10]C([H])C(C)/C([H])=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C([H])C(C)C([H])[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])[H])CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21][H] 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])C(C)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)[H])CC>>CCC1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CC)C([H])=C1O>>[O:10]([K])C(CC)/C([H])=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"[O:10]([K])C([H])C([H])/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21][H]>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C)CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)C1=CC=CC=C1)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"CN([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]CCCCCC>>CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)CC 21=20;20,10=10"
